US05869661
Synthesis of 1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-7-(1-pyperidinyl)-3-quinolinecarboxylic acid
A mixture of 1.48 g of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid (5 mmol), 0.85 g of piperidine (10 mmol), 1.04 g of trimethoxyborane (10 mmol) and 7.5 ml of acetonitrile was refluxed with heating for 4 hours. The reaction solution was cooled to room temperature, 20 ml of water was added therein, and separated crystals were filtered and dried to obtain 1.44 g of the objective compound.

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 5 mmol, 1.48 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)F)F)=O)C(=O)O | C14H11F2NO4
reactant | piperidine | 10 mmol, 0.85 g | N1CCCCC1 | C5H11N
reactant | trimethoxyborane | 10 mmol, 1.04 g | COB(OC)OC | C3H9BO3
reactant | acetonitrile | 7.5 ml | C(C)#N | C2H3N
solvent | water | 20 ml | O | H2O
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-7-(1-pyperidinyl)-3-quinolinecarboxylic acid | 1.44 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CCCCC1)F)=O)C(=O)O | C19H21FN2O4
